US07196200B2
tert-butyl 3-pyridinylcarbamate
3-Aminopyridine (2 g) in tetrahydrofuran (20 mL) at 25° C. was treated with 1M sodium bis(trimethylsilylamide) in tetrahydrofuran (46.7 mL), stirred for 15 minutes, treated with di-tert-butyldicarbonate (5 g) in tetrahydrofuran, stirred for 24 hours, and concentrated. The concentrate was treated with 0.1M hydrochloric acid (40 mL) and ethyl acetate (40 mL), and the organic layer was separated, washed with brine, dried over anhydrous sodium sulfate, flitered, and concentrated. The concentrate was flash chromatographed on silica gel with 60:40 ethyl acetate/hexanes. 1H NMR (300 MHz, DMSO-d6) δ 8.43 (d, 1H), 8.29 (dd, 1H), 7.98 (m, 1H), 6.57 (b, 1H), 1.53 (s, 9H).

reactant | 3-Aminopyridine | 2 g | NC=1C=NC=CC1 | C5H6N2
reactant | sodium bis(trimethylsilylamide) | 1M | C[Si](C)(C)[NH-].C[Si](C)(C)[NH-].[Na+].[Na+]
reactant | di-tert-butyldicarbonate | 5 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 46.7 mL | O1CCCC1 | C4H8O
product | tert-butyl 3-pyridinylcarbamate | N1=CC(=CC=C1)NC(OC(C)(C)C)=O | C10H14N2O2
